US04699926
A mixture of 2,3-dichloro-4-butyrylphenol (15 g, 0.064 mole), acetone (140 ml) and sodium hydroxide (14.5 g, 0.36 mole) was stirred and heated to reflux. Chloroform (12 g, 0.1 mole) was added to the mixture dropwise over a period of 15 minutes. Refluxing was continued for 3 hours and the acetone was evaporated in vacuo. The residue was treated with ice water containing hydrochloric acid. The product was extracted with ether. The ether extract was washed with water, then with brine and finally dried over MgSO4. The ether was evaporated in vacuo and the residue chromatographed on a column containing silica gel (320 g) and eluted with methylene chloride/tetrahydrofuran/acetic acid 50/1/1. The appropriate fractions were combined and evaporated in vacuo to give 10 g of 2-(2,3-dichloro-4-butyrylphenoxy)-2-methylpropionic acid which was identified by NMR and the purity confirmed by thin layer chromatography.

reactant | 2,3-dichloro-4-butyrylphenol | 0.064 mole, 15 g | ClC1=C(C=CC(=C1Cl)C(CCC)=O)O | C10H10Cl2O2
reactant | sodium hydroxide | 0.36 mole, 14.5 g | [OH-].[Na+]
reactant | Chloroform | 0.1 mole, 12 g | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 140 ml | CC(=O)C | C3H6O
product | 2-(2,3-dichloro-4-butyrylphenoxy)-2-methylpropionic acid | 10 g | ClC1=C(OC(C(=O)O)(C)C)C=CC(=C1Cl)C(CCC)=O | C14H16Cl2O4
